### PR TITLE
Add Erdős Problem 1124 (Tarski's circle-squaring problem), link the formal proof

### LINKED ISSUE #6271: Erdős Problem 1124
### What is the Erdős problem?

https://www.erdosproblems.com/1124

Can a square and a circle of the same area be decomposed into a finite number of congruent parts?

Status: proved (Tarski's circle-squaring problem, solved by Laczkovich using translations only). A formal proof exists in plby/lean-proofs (`Erdos1124.erdos_1124`, Codex and GPT-5.6 Sol), formalising Laczkovich's theorem on top of Mathlib's `Equidecomp`.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-28
* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6271.

### What changed
- `FormalConjecturesForMathlib/Topology/MetricSpace/Isometry.lean`: the evaluation action `MulAction (α ≃ᵢ α) α` of the isometry group (registered in the umbrella file).
- `FormalConjectures/ErdosProblems/1124.lean` with:
  - `erdos_1124` (`research solved`, `answer(True)`): for every `r > 0` the closed disc of radius `r` and the square of side `√π r` are equidecomposable by isometries, using Mathlib's `Equidecomp ℝ² (ℝ² ≃ᵢ ℝ²)` (Tarski's circle-squaring problem, solved by Laczkovich [La90b]).
  - `erdos_1124.variants.translations`: Laczkovich's stronger form with translations only (`Equidecomp ℝ² (Multiplicative ℝ²)`).

  Both are linked to plby/lean-proofs `Erdos1124.erdos_1124` (Codex and GPT-5.6 Sol; 27 Mathlib-only files, ~11k lines, formalising Laczkovich's discrepancy argument).

### How checked
- Rebuilt all 27 of plby's files against this repo's Mathlib: `#print axioms Erdos1124.erdos_1124` → `[propext, Classical.choice, Quot.sound]`, no `native_decide`.
- Bridge compiled against both statements on top of a renamed copy, same axioms (translations are isometries, and the two descriptions of the square agree):

<details>
<summary>Bridge</summary>

```lean
open Metric Real

namespace Bridge1124

local notation "ℝ²" => EuclideanSpace ℝ (Fin 2)

lemma square_eq (r : ℝ) : Erdos1124.square (√π * r) = Erdos1124Plby.square r := by
  ext x
  simp only [Erdos1124.square, Erdos1124Plby.square, Erdos1124Plby.squareSide, Set.mem_ofPred_eq,
    Set.mem_preimage, Set.mem_Icc, Pi.le_def, abs_le]
  constructor
  · intro h
    exact ⟨fun i => by have := (h i).1; linarith, fun i => (h i).2⟩
  · rintro ⟨h1, h2⟩ i
    exact ⟨by have := h1 i; linarith, h2 i⟩

/-- A translation equidecomposition is an isometry equidecomposition. -/
def ofTranslation (e : Equidecomp ℝ² (Multiplicative ℝ²)) : Equidecomp ℝ² (ℝ² ≃ᵢ ℝ²) where
  toPartialEquiv := e.toPartialEquiv
  isDecompOn' := by
    classical
    obtain ⟨S, hS⟩ := e.isDecompOn'
    refine ⟨S.image fun g => IsometryEquiv.addLeft (Multiplicative.toAdd g), fun a ha => ?_⟩
    obtain ⟨g, hg, hga⟩ := hS a ha
    exact ⟨IsometryEquiv.addLeft (Multiplicative.toAdd g), Finset.mem_image_of_mem _ hg, hga⟩

theorem erdos_1124_translations_bridge : type_of% Erdos1124.erdos_1124.variants.translations := by
  intro r hr
  obtain ⟨e, hs, ht⟩ := Erdos1124Plby.erdos_1124 r hr
  exact ⟨e, hs, by rw [square_eq]; exact ht⟩

theorem erdos_1124_bridge : type_of% Erdos1124.erdos_1124 := by
  show True ↔ _
  simp only [true_iff]
  intro r hr
  obtain ⟨e, hs, ht⟩ := erdos_1124_translations_bridge r hr
  exact ⟨ofTranslation e, hs, ht⟩

end Bridge1124
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1124»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1124.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+
+@[expose] public section
+
+open Metric Real
+
+namespace Erdos1124
+
+/-- The Euclidean plane. -/
+local notation "ℝ²" => EuclideanSpace ℝ (Fin 2)
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1124.lean:38]:
```suggestion
```
`Util` should alredy contian this notation

File: FormalConjectures/ErdosProblems/1124.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1124.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
